US04057636
N"-cyano-N-1-methylcyclobutyl-N'-3-pyridylguanidine
By following the procedure of Example 1, but substituting N-1-methylcyclobutyl-N'-3-pyridylcarbodiimide for the N-tert-butyl-N'-3-pyridylcarbodiimide, the desired compound was obtained with a melting point of 210.5°-211.5° C.

reactant | N-1-methylcyclobutyl-N'-3-pyridylcarbodiimide | CC1(CCC1)N=C=NC=1C=NC=CC1 | C11H13N3
reactant | N-tert-butyl-N'-3-pyridylcarbodiimide | C(C)(C)(C)N=C=NC=1C=NC=CC1 | C10H13N3
product | N"-cyano-N-1-methylcyclobutyl-N'-3-pyridylguanidine | C(#N)N=C(NC1(CCC1)C)NC=1C=NC=CC1 | C12H15N5
